US09386769B2
1.5 g of 6-chloro-N-((2-chlorothiazole-5-yl)methyl)-N-ethyl-3-chloropyridine-2-amine, prepared according to the example 11, and 20 mL of tetrahydrofuran were added in a 150 mL single neck flask equipped with a magnetic stirrer, after stirred at room temperature for 10 to 30 minutes, 0.25 g of sodium methoxide in 2.0 mL of methanol were added dropwise. The reaction mixture was stirred at the same temperature overnight, and then extracted with ethyl acetate, the organic layer was separated while the aqueous layer was extracted with ethyl acetate twice. The organic phases were combined, and dried over anhydrous sodium sulfate after washed with an iced aqueous sodium chloride solution twice, then remove the solvent under reduced pressure to obtain 1.20 g of crude product which was purified by a silica gel column chromatography using a petroleum ether/ethyl acetate (15/1) as an eluent to obtain 0.42 g of 6-methoxy-N-((2-chlorothiazole-5-yl)methyl)-N-ethyl-3-chloropyridin-2-amine, having the content of 95.0% as a yellow viscous liquid, GC-MS (M+) (EI: 70 eV, m/z) calc: 317. found: 317. 1H NMR (CDCl3/TMS, 300 MHz) δ (ppm) 1.202 (t, J=7.2 Hz, 3H, CH3), 3.418 (q, J=7.2 Hz, 2H, CH2), 4.033 (s, 3H, CH3), 4.530 (d, J=0.6 Hz, 2H, CH2), 6.726 (d, J=8.1 Hz, 1H, Py H), 7.034 (s, 1H, Thiazole-H), 7.454 (d, J=8.1 Hz, 1H, Py H).

reactant | 6-chloro-N-((2-chlorothiazole-5-yl)methyl)-N-ethyl-3-chloropyridine-2-amine | 1.5 g | ClC1=CC=C(C(=N1)N(CC)CC1=CN=C(S1)Cl)Cl | C11H10Cl3N3S
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
reactant | sodium methoxide | 0.25 g | C[O-].[Na+]
solvent | methanol | 2.0 mL | CO | CH4O
product | 6-methoxy-N-((2-chlorothiazole-5-yl)methyl)-N-ethyl-3-chloropyridin-2-amine | 0.42 g | COC1=CC=C(C(=N1)N(CC)CC1=CN=C(S1)Cl)Cl | C12H13Cl2N3OS
